US04263311
A hexanol solution (170 ml.) of 10.9 g. (0.036 mole) of piperoin and 5.5 g. (0.072 mole) of thiourea was refluxed for 4 hours, with continuous azeotropic water removal. The mixture was cooled to 0° C. and the solid collected, washed with ether and dried. Recrystallization from dimethylformamide gave 4,5-bis(3,4-methylenedioxyphenyl)-2-mercaptoimidazole, m.p. 282°-283° C.

reactant | hexanol | 170 ml | C(CCCCC)O | C6H14O
reactant | piperoin | 0.036 mole | C1OC2=C(O1)C=C(C=C2)C(C(=O)C3=CC4=C(C=C3)OCO4)O | C16H12O6
reactant | thiourea | 0.072 mole | NC(=S)N | CH4N2S
solvent | water | O | H2O
product | 4,5-bis(3,4-methylenedioxyphenyl)-2-mercaptoimidazole | C1OC=2C=C(C=CC2O1)C=1N=C(NC1C1=CC2=C(C=C1)OCO2)S | C17H12N2O4S
